US07795262B2
Step 1. Preparation of tert-butyl 4-hydroxy-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate
A solution of NaOMe in MeOH (13.6 mL, 25% in MeOH, 59.5 mmol) is added to a stirred solution of formamidine (2.2 g, 21 mmol) in MeOH (50 ml) at rt. The mixture is stirred for 15 min. 1-tert-Butyl 4-methyl 5-oxoazepane-1,4-dicarboxylate (5 g, 7.5 mmol) is added and the mixture is stirred at rt overnight. Acetic acid (2.33 g, 38.5 mmol) is added and the solvent is removed in vacuo. Water (30 ml) is added to the residue and the solution is extracted with DCM (3×30 ml). The combined extracts are washed with brine (40 ml), dried (Na2SO4) and evaporated, to provide a yellow solid that is used in the next step without further purification.

reactant | NaOMe | C[O-].[Na+]
reactant | formamidine | 21 mmol, 2.2 g | C(=N)N | CH4N2
reactant | 1-tert-Butyl 4-methyl 5-oxoazepane-1,4-dicarboxylate | 7.5 mmol, 5 g | O=C1C(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H21NO5
reactant | Acetic acid | 38.5 mmol, 2.33 g | C(C)(=O)O | C2H4O2
solvent | MeOH | 50 ml | CO | CH4O
solvent | MeOH | 59.5 mmol, 13.6 mL | CO | CH4O
product | tert-butyl 4-hydroxy-5,6,8,9-tetrahydro-7H-pyrimido[4,5-d]azepine-7-carboxylate | OC1=NC=NC=2CCN(CCC21)C(=O)OC(C)(C)C | C13H19N3O3
